* CL21A226MPQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-13-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 1.25V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MPQNNN_Precise_DC1.25V_25degC 1 2
C1 1 3 1.50834E-5
C2 3 4 3.48173E-4
C3 4 5 4.63021E-4
C4 5 6 4.72917E-4
C5 6 7 4.45292E-4
C6 7 8 5.27520E-4
C7 8 9 4.11785E-4
C8 9 10 1.0E-10
C16 17 18 0.00357
C17 18 19 0.01838
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 4.13566E-5
C24 25 26 2.90583E-5
C25 26 27 1.58179E-6
C26 27 28 4.37360E-11
C27 28 2 3.26418E-11
L10 11 12 6.59821E-11
L11 12 13 8.39032E-11
L12 13 14 8.31200E-11
L13 14 15 2.84776E-11
L14 15 16 3.27586E-11
L15 16 17 1.0E-10
L16 17 18 3.24034E-12
L17 18 19 1.18247E-12
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 7.04227E-11
L24 25 26 5.00525E-11
L25 26 27 2.17613E-10
L26 27 28 3.29863E-11
L27 28 2 1.56921E-11
R1 1 3 1.0E8 noisy=0
R2 3 4 20.40933 noisy=0
R3 4 5 2.01101 noisy=0
R4 5 6 0.34920 noisy=0
R5 6 7 0.06814 noisy=0
R6 7 8 0.01109 noisy=0
R7 8 9 0.00300 noisy=0
R8 9 10 1.0E-6 noisy=0
R9 10 11 0.00218 noisy=0
R11 12 13 0.01259 noisy=0
R12 13 14 0.01246 noisy=0
R13 14 15 0.03519 noisy=0
R14 15 16 0.13216 noisy=0
R15 16 17 1.0E-6 noisy=0
R16 17 18 2.59688E-4 noisy=0
R17 18 19 1.18728E-4 noisy=0
R18 19 20 1.0E-6 noisy=0
R19 20 21 1.0E-6 noisy=0
R20 21 22 1.0E-6 noisy=0
R21 22 23 1.0E-6 noisy=0
R22 23 24 1.0E-6 noisy=0
R23 24 25 0.00302 noisy=0
R24 25 26 0.00252 noisy=0
R25 26 27 0.00666 noisy=0
R26 27 28 1.22082 noisy=0
R27 28 2 0.86749 noisy=0
.ENDS CL21A226MPQNNN_Precise_DC1.25V_25degC
